US08106090B2
(R)-2-tert-Butoxycarbonylamino-3-(2,5-difluorophenyl)-propionic acid 4-nitrophenyl ester
To a solution of (R)-2-tert-butoxycarbonylamino-3-(2,5-difluorophenyl)-propionic acid (8.0 g, 27 mmol) in anhydrous dichloromethane (200 mL) at 0° C. is added N-ethyl-N′,N′-dimethylaminoethyl carbodiimide (5.09 g, 27 mmol), followed by 4-nitrophenol (4.4 g, 32 mmol). After stirring for 30 min, the solution is washed sequentially with saturated NaHCO3 (aq), water, 1.0 M citric acid (aq), water and brine, then dried over Na2SO4 and concentrated under reduced pressure to afford the title compound as a slightly red solid (8.11 g, 19 mmol), contaminated with residual 4-nitrophenol, which may be used without purification.

reactant | (R)-2-tert-butoxycarbonylamino-3-(2,5-difluorophenyl)-propionic acid | 27 mmol, 8.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=C(C=CC(=C1)F)F | C14H17F2NO4
reactant | 4-nitrophenol | 32 mmol, 4.4 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (R)-2-tert-Butoxycarbonylamino-3-(2,5-difluorophenyl)-propionic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](CC1=C(C=CC(=C1)F)F)NC(=O)OC(C)(C)C)=O | C20H20F2N2O6
